US08124759B2
A solution of 3-(morpholinomethyl)aniline (0.46 g), TEA (0.37 mL) and 4-nitrophenyl carbonochloridate (530 mg) in THF (18 mL) was stirred at ambient temperature for 2 hours, treated with tert-butyl 4-aminophenylcarbamate (500 mg) and an additional 0.37 mL of TEA. the resulting mixture was stirred at ambient temperature for 48 hours, poured into water and extracted 3× with ethyl acetate. The extract was washed with brine, dried (MgSO4), filtered and concentrated. The concentrate was purified by flash chromatography on silica gel with 2% methanol/dichloromethane to provide 1-(3-(morpholinomethyl)phenyl)-3-(4-nitrophenyl)urea which was dissolved in dichloromethane (30 mL), cooled in an ice bath, and treated with TFA (1.8 mL). The reaction mixture was stirred for 30 minutes at 0° C. and for 12 hours at ambient temperature, and concentrated three times from methanol/toluene.

reactant | 3-(morpholinomethyl)aniline | 0.46 g | O1CCN(CC1)CC=1C=C(N)C=CC1 | C11H16N2O
reactant | 4-nitrophenyl carbonochloridate | 530 mg | C(OC1=CC=C(C=C1)[N+](=O)[O-])(=O)Cl | C7H4ClNO4
reactant | tert-butyl 4-aminophenylcarbamate | 500 mg | NC1=CC=C(C=C1)NC(OC(C)(C)C)=O | C11H16N2O2
reactant | water | O | H2O
solvent | THF | 18 mL | C1CCOC1 | C4H8O
product | 1-(3-(morpholinomethyl)phenyl)-3-(4-nitrophenyl)urea | O1CCN(CC1)CC=1C=C(C=CC1)NC(=O)NC1=CC=C(C=C1)[N+](=O)[O-] | C18H20N4O4
